US07011838B2
First, 27.6 g of malononitrile was dissolved in 50 ml of N,N-dimethylformamide, and 27.6 g of potassium carbonate was added at room temperature, followed by stirring for 1 hour. Then, a solution of 17.7 g of 1-bromo-3,3,3-trifluoropropane dissolved in 20 ml of N,N-dimethylformamide was added dropwise slowly, followed by stirring for 1 hour. Then, water was added to the reaction mixture, which was extracted with diethyl ether. The organic layer was successively washed with water, a saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 11.3 g of (3,3,3-trifluoropropyl)malononitrile (the intermediate (16)).

reactant | malononitrile | 27.6 g | C(CC#N)#N | C3H2N2
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3,3,3-trifluoropropane | 17.7 g | BrCCC(F)(F)F | C3H4BrF3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (3,3,3-trifluoropropyl)malononitrile | 11.3 g, Yield: 68% | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
